US04990633
Preparation of 1,2-bis-(4-nitrophenoxy)-3,3,4,4,5,5-hexafluorocyclopent-1-ene
24.5 g of 1,2-dichloro-3,3,4,4,5,5-hexafluorocyclopent-1-ene (0.1 mol) were initially introduced at 10° C. in 50 ml of dimethylformamide. After the addition of 27.8 g of 4-nitrophenol (0.2 mol) and 11.2 g (0.2 mol) of finely powdered KOH, the mixture was slowly warmed to 50° C. with stirring and held at this temperature for 20 hours. The reaction mixture was then poured into 500 ml of water, methylene chloride was added, and the organic phase was separated off and washed successively with 100 ml of water water, 100 ml of 10% strength by weight sodium hydroxide solution and again with 100 ml of water. After drying over sodium sulphate the mixture was concentrated to dryness on a rotary evaporator.

reactant | 1,2-dichloro-3,3,4,4,5,5-hexafluorocyclopent-1-ene | 0.1 mol, 24.5 g | ClC1=C(C(C(C1(F)F)(F)F)(F)F)Cl | C5Cl2F6
reactant | 4-nitrophenol | 0.2 mol, 27.8 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | KOH | [OH-].[K+]
reactant | water | 500 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1,2-bis-(4-nitrophenoxy)-3,3,4,4,5,5-hexafluorocyclopent-1-ene | [N+](=O)([O-])C1=CC=C(OC2=C(C(C(C2(F)F)(F)F)(F)F)OC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C17H8F6N2O6
